US05952382
Preparation of 4-[7-(1-adamantyl)-6-methoxyethoxymethoxy-2-naphthyl]benzenemethanol
3 g (6.1 mmol) of 4-[7-(1-adamantyl)-6-methoxyethoxymethoxy-2-naphthyl]benzoic acid and 40 ml of THF were introduced into a three-necked flask under a stream of nitrogen. 20 ml of a solution of borane (1M in THF) were added dropwise and the reaction mixture was heated at 40° C. for one hour. The reaction mixture was poured into a 1N hydrochloric acid solution and extracted with ethyl acetate and the organic phase was separated by settling, dried over magnesium sulfate and evaporated.

reactant | 4-[7-(1-adamantyl)-6-methoxyethoxymethoxy-2-naphthyl]benzoic acid | 6.1 mmol, 3 g | C12(CC3CC(CC(C1)C3)C2)C2=C(C=C3C=CC(=CC3=C2)C2=CC=C(C(=O)O)C=C2)OCOCCOC | C31H34O5
reactant | borane | 1M | B | BH3
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | 4-[7-(1-adamantyl)-6-methoxyethoxymethoxy-2-naphthyl]benzenemethanol | C12(CC3CC(CC(C1)C3)C2)C2=C(C=C3C=CC(=CC3=C2)C2=CC=C(C=C2)CO)OCOCCOC | C31H36O4
